US04451463
A stirred mixture of methyl 3-(4-amino-1,2,3-triazol-2-yl)benzoate (0.312 g.), lithium aluminium hydride (0.10 g.) and ether (50 ml.) was kept at room temperature for 1 hour. The excess of lithium aluminium hydride was destroyed with aqueous NaOH and the mixture was filtered. The filtrate was evaporated to give unpurified 4-amino-2-(3-hydroxymethylphenyl)-1,2,3-triazole.

reactant | methyl 3-(4-amino-1,2,3-triazol-2-yl)benzoate | 0.312 g | NC1=NN(N=C1)C=1C=C(C(=O)OC)C=CC1 | C10H10N4O2
reactant | lithium aluminium hydride | 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-amino-2-(3-hydroxymethylphenyl)-1,2,3-triazole | NC1=NN(N=C1)C1=CC(=CC=C1)CO | C9H10N4O
